US07449466B2
Production Example 1 was repeated except that 1-(4-methoxyphenyl)piperazine dihydrochloride, (2-bromoethyl)benzene and tetrahydrofuran were replaced with 5-methoxy-2-(piperazin-1-yl)benzonitrile (599 mg), 3-cyclohexylpropyl methylsulfonate (608 mg) and N,N-dimethylformamide (6.8 mL), respectively, and the resulting crude product was purified on silica gel column chromatograpy (eluent, ethyl acetate: hexane=1:1) to provide 2-[4-(3-cyclohexylpropyl)piperazin-1-yl]-5-methoxybenzonitrile (439 mg).

reactant | 1-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 5-methoxy-2-(piperazin-1-yl)benzonitrile | 599 mg | COC=1C=CC(=C(C#N)C1)N1CCNCC1 | C12H15N3O
reactant | 3-cyclohexylpropyl methylsulfonate | 608 mg | CS(=O)(=O)OCCCC1CCCCC1 | C10H20O3S
solvent | N,N-dimethylformamide | 6.8 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[4-(3-cyclohexylpropyl)piperazin-1-yl]-5-methoxybenzonitrile | 439 mg | C1(CCCCC1)CCCN1CCN(CC1)C1=C(C#N)C=C(C=C1)OC | C21H31N3O
